US04526894
Benzoyl chloride (0.93 gram) is added to a mixture of 1.5 grams of anhydrous aluminum chloride and 10 ml of nitrobenzene, the mixture is stirred at room temperature until it becomes uniform, stirred at 105° to 110° C. for eight hours with 1.26 grams of 6,8-dichloro-4-hydroxy-2-quinolone, decomposed with concentrated hydrochloric acid, small amount of water is added thereto, and crystals separated out therefrom are collected by filtration. The crystals are washed with water and then washed with methanol and ether to give 1.2 grams of 3-benzoyl-6,8-dichloro-4-hydroxy-2-quinolone, pale yellow powder, melting point 258° to 259° C.

reactant | Benzoyl chloride | 0.93 gram | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | aluminum chloride | 1.5 grams | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | nitrobenzene | 10 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | 6,8-dichloro-4-hydroxy-2-quinolone | 1.26 grams | ClC=1C=C2C(=CC(NC2=C(C1)Cl)=O)O | C9H5Cl2NO2
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 3-benzoyl-6,8-dichloro-4-hydroxy-2-quinolone | 1.2 grams | C(C1=CC=CC=C1)(=O)C=1C(NC2=C(C=C(C=C2C1O)Cl)Cl)=O | C16H9Cl2NO3
